US05380865
A solution of 1-amino-2-(2,6-dichloro-4-trifluoromethylbenzylideneamino)-1,2-dicyanoethylene (3.3 g, 0.01 mol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (3.3 g, 0.01 mol) in acetonitrile (75 ml) was stirred at reflux for 48 hours. Evaporation of the solvent yielded a brown solid which was continuously extracted with boiling toluene. The solution was evaporated under reduced pressure and the red-brown residue was dissolved in a mixture of ethyl acetate and dichloromethane (1:10) and filtered through silica. Evaporation of the liltrate gave a brown solid which was triturated with hexane and the solid was removed by filtration to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole (1.4 g) as a light brown solid, m.p. 194°-195° C.

reactant | 1-amino-2-(2,6-dichloro-4-trifluoromethylbenzylideneamino)-1,2-dicyanoethylene | 0.01 mol, 3.3 g | NC(=C(C#N)N=CC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C12H5Cl2F3N4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.01 mol, 3.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole | 1.4 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C#N)C#N | C12H3Cl2F3N4
